US07786308B2
To a suspension of Pd/C (30 mg, 10%) in isopropanol (5 mL), water (5 mL) and hydrochloric acid (0.04 mL) was added 8-benzyl-1-phenyl-1,8-diaza-spiro[4.5]dec-3-en-2-one (150 mg 0.5 mmol). The mixture was hydrogenated under H2 (50 psi) at 20° C. for 5 hours. After filtration, the filtrate was evaporated under reduced pressure to give 1-phenyl-1,8-diazaspiro[4.5]decan-2-one hydrochloride. 1H NMR (300 MHz, MeOD) δ 7.42-7.52 (m, 3H), 7.15-7.41 (m, 2H), 3.29-3.33 (m, 2H), 3.06-3.16 (m, 2H), 2.63 (t, J=7.8 Hz, 2H), 2.31 (t, J=8.1 Hz, 2H) 1.96-2.00 (m, 2H), 1.78-1.89 (m, 2H).

reactant | 8-benzyl-1-phenyl-1,8-diaza-spiro[4.5]dec-3-en-2-one | 0.5 mmol, 150 mg | C(C1=CC=CC=C1)N1CCC2(C=CC(N2C2=CC=CC=C2)=O)CC1 | C21H22N2O
reactant | hydrochloric acid | 0.04 mL | Cl | ClH
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | water | 5 mL | O | H2O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 1-phenyl-1,8-diazaspiro[4.5]decan-2-one hydrochloride | Cl.C1(=CC=CC=C1)N1C(CCC12CCNCC2)=O | InChI=1S/C14H18N2O.ClH/c17-13-6-7-14(8-10-15-11-9-14)16(13)12-4-2-1-3-5-12;/h1-5,15H,6-11H2;1H
